US06514996B2
(Step A) 4-Methoxy-2,2-dimethyl-1,3-benzodioxole (Compound IIbk-a)
3-Methoxycatechol (25 g) was dissolved in benzene, and dimethoxyacetal (35 ml) and a catalytic amount of p-toluenesulfonic acid were added thereto, followed by heating at reflux for 6 hours. After being allowed to stand for cooling, the mixture was adjusted to alkaline with an aqueous solution of sodium hydroxide, followed by extraction with ether. The organic layer was washed with a saturated saline and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=99/1) to give Compound IIbk-a (19.4 g, 60.5%) as a white solid.

reactant | 3-Methoxycatechol | 25 g | COC1=C(C(O)=CC=C1)O | C7H8O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-Methoxy-2,2-dimethyl-1,3-benzodioxole | COC1=CC=CC=2OC(OC21)(C)C | C10H12O3
